Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Duricef / azithromycin / Percocet / Vicodin
 
Attending: ___.
 
Chief Complaint:
bleeding

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G1P0 at 20w3d with IVF mono-di twins complicated by
TTTS s/p laser ablation on ___ now with heavy vaginal bleeding
that started at 0100. Denies ctx, LOF. +FM. Soaked through one
pad in one hour. Since arrival in triage, has only had minimal
brown spotting on pad. No abdominal pain. No fever. No abdominal
trauma.

Of note, pt was diagnosed with TTTS by U/S on ___ which showed
twin A (recipient) with polyhydramnios and EFW 250g. Twin B
(donor) noted to have oligohydramnios, smaller EFW and
intermittent absent end diastolic flow. Her stage was felt to be
between stage 1 and 2. She was counseled regarding the poor
prognosis, and elected to proceed with laser ablation, which, as
stated above, was on ___ with subsequent IUFD of twin B on
___.

She has been having spotting x3 weeks, however, nothing of this
magnitude before. No h/o previa or low lying placenta.

 
Past Medical History:
PNC: 
- ___  by
- Labs B neg (s/p rhogam on ___ /Abs- /___ /RPRNR /HBsAg-
/HIV- /GBS unk
- benign antepartum course with exception of TTTS, per pt (no
records available at this time)
- Issues:
*) mono-di twins complicated by TTTS, s/p laser ablation with
subsequent IUFD twin B (donor)
*) shortened cx, 25mm on ___, per pt, to begin vaginal
progesterone, rx not cleared by insurance yet
*) Rh neg, s/p rhogam on ___
 
OBHx:
- G1
 
GynHx:
- denies h/o fibroids, polyps
 
PMH: 
*) hypothyroidism, 75mcg levoxyl
 
PSH: 
*) multiple arthroscopies, s/p sports injuries, including left
shoulder labrum repair
*) egg retrieval

 
Social History:
denies T/E/D

 
Physical Exam:
Physical Exam
97.6 58 18 100/62
Gen: A&O, comfortable
Abd: soft, gravid, nontender
Ext: no calf tenderness
GU: minimal brown staining on pad 

Toco one ctx in 20 min (not perceived)
FHT 145/moderate varability/+accels/-decels

TAUS twin A: breech, +FM, polyhydramnios, +fetal breathing; twin
B: demised; posterior placenta, appears low lying, no
retroplacental clot
 

 
Pertinent Results:
___ 05:08AM BLOOD WBC-8.3 RBC-4.10* Hgb-14.7 Hct-39.6 
MCV-97 MCH-35.8* MCHC-37.0* RDW-14.3 Plt ___
___ 05:08AM BLOOD Plt ___
___ 05:08AM BLOOD ___ PTT-32.9 ___
___ 05:08AM BLOOD ___
___ 05:08AM BLOOD FetlHgb-0
___ 05:49AM BLOOD Glucose-67* UreaN-11 Creat-0.6 Na-138 
K-4.0 Cl-99 HCO3-26 AnGap-17
___ 05:49AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.0
___ 05:50AM URINE Color-Straw Appear-Clear Sp ___
___ 05:50AM URINE Blood-MOD Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:50AM URINE RBC-3* WBC-2 Bacteri-FEW Yeast-NONE 
Epi-<1

___ 5:50 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 
Brief Hospital Course:
Ms. ___ is a ___ G1P0 with IVF mono-di twins complicated 
by TTTS s/p laser ablation on ___ with subsequent IUFD twin B 
(donor) who presented at 20w3d with vaginal bleeding concerning 
for abruption vs previa. On arrival, she had no e/o 
coagulopathy, was hemodynamically stable without ongoing 
bleeding. KB was negative. Fetal monitoring of twin A was 
reassuring. Given pre-viable gestational age, the limited role 
for fetal intervention at this gestation was discussed and will 
be readdressed at 23 weeks (periviability). She was observed 
overnight and remained hemodynamically stable. She was 
discharged home in stable condition on hospital day 2 with 
precautions given and outpatient follow-up planned. 

 
Medications on Admission:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bleeding antepartum, s/p laser ablation for TTTS and demise of 
twin B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please follow instructions on this sheet
 
Followup Instructions:
___